US05807858
The mixture of benzhydrylpiperazine epimers (7.6 g, 14.9 mmol) was dissolved in 50 mL of dry tetrahydrofuran with 1.6 mL (18.6 mmol) of allyl bromide and 5.1 g (36.9 mmol) of sodium carbonate and stirred at room temperature under nitrogen for 2 days. The reaction solution was poured into ice water/ethyl acetate and separated. The organic layer was dried over sodium sulfate, and concentrated in vacuo. The residue was dissolved in a small amount of dichloromethane and placed on a column of silica gel. The diastereomers were separated by elution with a stepwise gradient of ethanol in dichloromethane. The first isomer was eluted with 1.3% ethanol in dichloromethane, and the second isomer was obtained with 1.6% ethanol in dichloromethane. Fractions containing the second isomer were combined and the solvent removed in vacuo to give 1.44 g of 4-(αR)-α-((2R,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)benzyl)-N,N-diethylbenzamide as a brown oil.

reactant | benzhydrylpiperazine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCNCC1 | C17H20N2
reactant | allyl bromide | 18.6 mmol, 1.6 mL | C(C=C)Br | C3H5Br
reactant | sodium carbonate | 36.9 mmol, 5.1 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N,N-diethylbenzamide | C(C)N(C(C1=CC=CC=C1)=O)CC | C11H15NO
